US07572792B2
A solution of 2-fluoropyridine (2.6 mL, 30.2 mmol) and tert-butyl 3-cyanoazetidine-1-carboxylate (I-1, 5.0 g, 27.5 mmol) in THF (200 mL) at room temperature was treated with LHMDS (55 mL of a 1.0 M solution in THF, 55 mmol). After 6 h, the reaction mixture was poured into saturated aqueous NH4Cl (200 mL) and extracted with EtOAc (3×150 mL). The combined organic extracts were dried (Na2SO4) and concentrated under reduced pressure to afford tert-butyl 3-cyano-3-pyridin-2-ylazetidine-1-carboxylate (I-2) as a yellow-brown oil. Analytical LCMS: single peak (214 nm), 3.004 min. This material was used in subsequent reactions without further purification.

reactant | 2-fluoropyridine | 30.2 mmol, 2.6 mL | FC1=NC=CC=C1 | C5H4FN
reactant | tert-butyl 3-cyanoazetidine-1-carboxylate | 27.5 mmol, 5.0 g | C(#N)C1CN(C1)C(=O)OC(C)(C)C | C9H14N2O2
reactant | LHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | NH4Cl | 200 mL | [NH4+].[Cl-]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-cyano-3-pyridin-2-ylazetidine-1-carboxylate | C(#N)C1(CN(C1)C(=O)OC(C)(C)C)C1=NC=CC=C1 | C14H17N3O2
